US04918212
(E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyl]-benzenephosphonic acid
2 g (4.5 millimoles) of diethyl (E)-4-[2(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1propenyl]-benzenephosphonate, 1.86 g (18 millimoles) of sodium bromide and 3 g (27 millimoles) of trimethylchlorosilane in 10 ml of acetonitrile were stirred for 3 hours at 40° C. The mixture was then allowed to cool and was filtered, and the filtrate was evaporated down. The oil which remained was stirred for 30 minutes with water at room temperature and then extracted with ether, and the organic phase was washed with water, dried over sodium sulfate and evaporated down. Recrystallization of the residue from ethyl acetate gave 1.1 g of the title compound of melting point 208°-209° C.

reactant | diethyl (E)-4-[2(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1propenyl]-benzenephosphonate | 4.5 millimoles, 2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C=C1)P(OCC)(=O)OCC)/C)C | C27H37O3P
reactant | sodium bromide | 18 millimoles, 1.86 g | [Br-].[Na+]
reactant | trimethylchlorosilane | 27 millimoles, 3 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyl]-benzenephosphonic acid | 1.1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C=C1)P(O)(=O)O)/C)C | C23H29O3P
